US09260408B2
4-(5-Bromo-pyridin-3-ylmethyl)-thiomorpholine 1,1-dioxide
In analogy to the procedure described for the preparation of intermediates A-12 [B], thiomorpholine 1,1-dioxide was reacted with 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A]) in the presence of NaH to give the title compound as a white solid. MS: 304.9, 307.0 (M+H+).

reactant | thiomorpholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
product | 4-(5-Bromo-pyridin-3-ylmethyl)-thiomorpholine 1,1-dioxide | BrC=1C=C(C=NC1)CN1CCS(CC1)(=O)=O | C10H13BrN2O2S
